US07915271B2
To a solution of benzyl {2-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-1,1-dimethylethyl}carbamate (65 mg, 0.149 mmol) in THF (1.5 mL) was added NaH (13 mg, 0.542 mmol) and methyl 2″-(bromomethyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (91.1 mg, 0.185 mmol). The reaction was stirred for 72 hours, and then additional NaH (36.2 mg, 1.51 mmol) was added. After 6 more hours at room temperature, the reaction was quenched with saturated NH4Cl solution (10 mL) and diluted with EtOAc (20 mL). The aqueous layer was extracted with EtOAc (20 mL), and the combined organic extracts were washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated. Purification of the residue by reverse-phase chromatography (C-18, 10 to 95% MeCN/water with 0.1% TFA) afforded 2″-({5-[3,5-bis(trifluoromethyl)phenyl]-4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid. LCMS=726.0 (M+1)+. 1H NMR (CDCl3, 500 MHz, rotamers present) a 8.03-8.02 (m, 1H), 7.80-7.96 (m, 1H), 7.89 (s, 1H), 7.79-7.76 (m, 2H), 7.62-7.59 (m, 1H), 7.42-7.31 (m, 3H), 7.22-7.08 (m, 3H), 5.26-5.28 (m, 1H), 4.81 (d, J=16.6 Hz), 4.44-4.42 (m, 1H), 4.02 (d, J=16.6 Hz), 3.85 (s, 3H), 2.37-2.35 (m, 3H), 1.24 (s), 1.06 (s), 0.56-0.54 (m, 3H).

reactant | benzyl {2-[3,5-bis(trifluoromethyl)phenyl]-2-hydroxy-1,1-dimethylethyl}carbamate | 0.149 mmol, 65 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(C)(C)NC(OCC1=CC=CC=C1)=O)O)(F)F | C20H19F6NO3
reactant | NaH | 0.542 mmol, 13 mg | [H-].[Na+]
reactant | methyl 2″-(bromomethyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.185 mmol, 91.1 mg | BrCC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)OC)C | C24H20BrF3O3
reactant | NaH | 1.51 mmol, 36.2 mg | [H-].[Na+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2″-({5-[3,5-bis(trifluoromethyl)phenyl]-4,4-dimethyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)C1C(N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)O)C)(C)C)(F)F | C36H28F9NO5
